US05527800
1-(3-Carbazolyl)-3-(1-acetylpiperidin-4-yl)-1-propanone
To a 90 ml solution of 5.0 g of carbazole and 7.2 g of 3-(1-acetylpiperidin-4-yl)propionyl chloride in nitromethane, 9.3 g of aluminum chloride was added little by little, followed by stirring at 70° C. for 11 hours. The reaction mixture was poured over 100 ml of ice water, and the organic layer was separated and then washed by sequential additions of a 50 ml saturated aqueous sodium hydrogen carbonate solution and 50 ml of distilled water. After the mixture was dried over anhydrous sodium sulfate, the solvent was distilled off to yield an oily residue. The residue was purified by silica gel column chromatography (developing solvent: ethyl acetate-methanol=20:1 (v/v)) to yield 2.6 g of the title compound as a light yellow powder.

reactant | carbazole | 5.0 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | 3-(1-acetylpiperidin-4-yl)propionyl chloride | 7.2 g | C(C)(=O)N1CCC(CC1)CCC(=O)Cl | C10H16ClNO2
reactant | aluminum chloride | 9.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | nitromethane | [N+](=O)([O-])C | CH3NO2
product | 1-(3-Carbazolyl)-3-(1-acetylpiperidin-4-yl)-1-propanone | 2.6 g | C1=CC(=CC=2C3=CC=CC=C3NC12)C(CCC1CCN(CC1)C(C)=O)=O | C22H24N2O2
